US07842758B2
4-Dodecyloxyethynylbenzene
4-Dodecyloxy[(trimethylsilyl)ethynyl]benzene (3.09 g, 8.62×10−3 mol) was dissolved in a mixture of 20 ml of MeOH and 20 ml of THF. 5N NaOH (2.1 ml, 1.05×10−2 mol) was added and the solution was stirred for 3.5 h at room temperature under N2. Water was added to the reaction mixture. The aqueous layer was extracted three times with CH2Cl2. The combined organic layers were dried over MgSO4. The product was chromatographed on silica gel with 4:1 hexane:CH2Cl2 as the eluent. Yield=2.430 g (98% based on 3.09 g of 4-dodecyloxy[(trimethylsilyl)ethynyl]benzene). 1H NMR (250 MHz, CDCl3): δ 7.41 (d, 2H, J=8.8 Hz, Ph), 6.83 (d, 2H, J=8.7 Hz, Ph), 3.95 (t, 2H, J=6.6 Hz, —OCH2—), 2.99 (s, 1H, ethynyl-H), 1.78 (quint, 2H, J=6.9 Hz, —OCH2CH2—), 1.10-1.51 (m, 18H, —CH2—), 0.88 (t, 3H, J=6.6 Hz, —CH3). CI MS m/z: 287.236 ((M+H)+) (calcd 287.237).

reactant | 4-Dodecyloxy[(trimethylsilyl)ethynyl]benzene | 8.62×10−3 mol, 3.09 g | C(CCCCCCCCCCC)OC1=CC=C(C=C1)C#C[Si](C)(C)C | C23H38OSi
reactant | NaOH | 1.05×10−2 mol, 5N, 2.1 ml | [OH-].[Na+]
reactant | Water | O | H2O
reactant | THF | 20 ml | C1CCOC1 | C4H8O
solvent | MeOH | 20 ml | CO | CH4O
product | 4-Dodecyloxyethynylbenzene | C(CCCCCCCCCCC)OC#CC1=CC=CC=C1 | C20H30O
